US04939241
To a solution of O-benzyl-N-benzyloxycarbonyl-L-threonine (1.15 g), benzyl 3-hydroxypropionate (604 mg) and 4-N,N-dimethylaminopyridine (41 mg) in methylene chloride (20 ml) was added N,N-diethylaminopropyl-N'-ethylcarbodiimide hydrochloride (641 mg) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for an hour. The reaction mixture was concentrated and the residue was diluted with ethyl acetate and washed successively with 0.1 N hydrochloric acid, water, 10% aqueous sodium hydrogen carbonate, water and brine. After drying over sodium sulfate, the ethyl acetate extract was filtered and concentrated. The residue was chromatographed on silica gel eluting successively with a 1:1 mixture of methylene chloride and hexane, methyl chloride and a 50:1 mixture of methylene chloride and acetone to give 2-benzyloxycarbonylethyl O-benzyl-N-benzyloxycarbonyl-L-threonine (1.1 g).

reactant | O-benzyl-N-benzyloxycarbonyl-L-threonine | 1.15 g | C(C1=CC=CC=C1)O[C@@H]([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O)C | C19H21NO5
reactant | benzyl 3-hydroxypropionate | 604 mg | OCCC(=O)OCC1=CC=CC=C1 | C10H12O3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-benzyloxycarbonylethyl O-benzyl-N-benzyloxycarbonyl-L-threonine | 1.1 g | C(C1=CC=CC=C1)OC(=O)CCN([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C29H31NO7
